* TB3: DNL/INL via Code Density — 2048 Conversions
* Slow ramp 0V→1.2V, 5MHz accelerated clock
* At 5MHz: conversion rate = 500 kSPS (10 clk/conv), 2us per conv
* 2048 conversions × 2us = 4.096ms total
* Ramp rate: 1.2V/4.1ms = 0.59mV/conv = 0.13 LSB/conv → ~8 hits/bin

.include sky130_pdk_fixup.spice
.lib sky130_v3.lib.spice tt

.include v3_cap_dac.spice
.include v3_comparator.spice
.include v3_sar_logic.spice
.include v3_sar_adc.spice

VDD vdd 0 1.8
VSS vss 0 0
Vref vref 0 1.2

* Slow ramp from 0V to 1.2V
Vin vin 0 PWL(0 0 4.2m 1.2)

* Clock: 5MHz (period=200ns, 50% duty)
* Eval window = 100ns >> 5ns TT decision time
Vclk clk 0 PULSE(0 1.8 100n 5n 5n 100n 200n)

* Convert: HIGH at 300ns
Vconv convert 0 PWL(0 0 299n 0 300n 1.8)

* Sleep: awake
Vslp sleep_n 0 1.8

Xadc vin vref clk convert sleep_n
+ d7 d6 d5 d4 d3 d2 d1 d0 valid
+ vdd vss v3_sar_adc

.save v(d7) v(d6) v(d5) v(d4) v(d3) v(d2) v(d1) v(d0) v(valid)

.tran 50n 4.2m

.control
run
wrdata v3_tb3_dnl_inl.dat v(d7) v(d6) v(d5) v(d4) v(d3) v(d2) v(d1) v(d0) v(valid)
.endc

.end
